US07220880B2
2-Phenoxy-2-(4-{[2-(4-phenoxy-phenyl)-ethylcarbamoyl]-methoxy}-benzyl)-butyric acid
The title compound was prepared using same method for 2-Methyl-2-phenoxy-3-(4-{[2-(4-phenoxy-phenyl)-ethylcarbamoyl]-methoxy}-phenyl)-propionic acid from 2-(4-Hydroxy-benzyl)-2-phenoxy-butyric acid ethyl ester

reactant | 2-Methyl-2-phenoxy-3-(4-{[2-(4-phenoxy-phenyl)-ethylcarbamoyl]-methoxy}-phenyl)-propionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)OCC(NCCC1=CC=C(C=C1)OC1=CC=CC=C1)=O)OC1=CC=CC=C1 | C32H31NO6
reactant | 2-(4-Hydroxy-benzyl)-2-phenoxy-butyric acid ethyl ester | C(C)OC(C(CC)(OC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C19H22O4
product | 2-Phenoxy-2-(4-{[2-(4-phenoxy-phenyl)-ethylcarbamoyl]-methoxy}-benzyl)-butyric acid | O(C1=CC=CC=C1)C(C(=O)O)(CC)CC1=CC=C(C=C1)OCC(NCCC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C33H33NO6
